US07045512B2
Step 3: Preparation of 4-[3-(trifluoromethyl)phenoxy]phenylhydrazine hydrochloride
4-[3-(Trifluoromethyl)phenoxy]benzenamine (15 g) was added to a stirred solution of 6 M HCl (190 mL). The resulted suspension was cooled to −5° C., and then an aqueous solution of NaNO2 (4.5 g in 15 mL water) was added dropwise over a period of 15 min. The reaction mixture was stirred for another 30 min, followed by the gradual addition of a solution of SnCl2.2H2O (69 g in 100 mL conc HCl). After stirring at −5° C. for 2 h, the stirred mixture was warmed to room temperature overnight, filtered, and the collected solid was washed with 6 M HCl, water, and dried (18 g).

reactant | 4-[3-(Trifluoromethyl)phenoxy]benzenamine | 15 g | FC(C=1C=C(OC2=CC=C(C=C2)N)C=CC1)(F)F | C13H10F3NO
reactant | HCl | 6 M, 190 mL | Cl | ClH
reactant | NaNO2 | 15 mL, 4.5 g | N(=O)[O-].[Na+]
solvent | SnCl2.2H2O | 100 mL, 69 g | O.O.Cl[Sn]Cl
product | 4-[3-(trifluoromethyl)phenoxy]phenylhydrazine hydrochloride | Cl.FC(C=1C=C(OC2=CC=C(C=C2)NN)C=CC1)(F)F | InChI=1S/C13H11F3N2O.ClH/c14-13(15,16)9-2-1-3-12(8-9)19-11-6-4-10(18-17)5-7-11;/h1-8,18H,17H2;1H
